US04247555
From 4,9-dihydro-7-(methylsulfinyl)-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid (1.40 g; 5 mmole), DMF (50 ml), 1,1'-carbonyl-diimidazole (2.43 g; is mmole) and 5-amino-1-H-tetrazole, monohydrate (0.62 g; 6 mmole), following the procedure of Example 3, there is obtained 4,9-dihydro-7-(methylsulfinyl)-9-oxo-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide with pyridine (4:3), mp>350°; after crystallization from pyridine-ether.

reactant | 4,9-dihydro-7-(methylsulfinyl)-9-oxo-pyrazolo-[5,1-b]quinazoline-2-carboxylic acid | 5 mmole, 1.40 g | CS(=O)C1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)O)=O | C12H9N3O4S
reactant | DMF | 50 ml | CN(C)C=O | C3H7NO
reactant | 1,1'-carbonyl-diimidazole | 2.43 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-amino-1-H-tetrazole, monohydrate | 6 mmole, 0.62 g | O.NC1=NN=NN1
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4,9-dihydro-7-(methylsulfinyl)-9-oxo-N-1H-tetrazol-5-yl-pyrazolo[5,1-b]quinazoline-2-carboxamide | CS(=O)C1=CC=2C(N3C(NC2C=C1)=CC(=N3)C(=O)NC3=NN=NN3)=O | C13H10N8O3S
